US08802670B2
To a solution of 1-methyl-piperidone (1.00 g) in 1,2-dichloroethane (20 ml) was added 2-methoxyethylamine (0.77 ml), followed by sodium triacetoxyborohydride (2.62 g) and acetic acid (0.53 g). The reaction mixture was stirred at room temperature overnight. Dichloromethane/aqueous sodium hydrogen carbonate extraction and purification on silica gave (2-methoxy-ethyl)-(1-methyl-piperidin-4-yl)-amine (1.52 g).

reactant | 1-methyl-piperidone | 1.00 g | CN1C(CCCC1)=O | C6H11NO
reactant | 2-methoxyethylamine | 0.77 ml | COCCN | C3H9NO
reactant | sodium triacetoxyborohydride | 2.62 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 0.53 g | C(C)(=O)O | C2H4O2
solvent | 1,2-dichloroethane | 20 ml | ClCCCl | C2H4Cl2
product | (2-methoxy-ethyl)-(1-methyl-piperidin-4-yl)-amine | 1.52 g | COCCNC1CCN(CC1)C | C9H20N2O
